US07273882B2
Step AR2. To 3-chloro-4-(propylamino)benzonitrile (365 mg, 1.87 mmol) in MeOH (10 ml) was added bromine (300 mg, 1.87 mmol) in MeOH (2 mL) dropwise. After stirred for 30 minutes, the solvent was removed and crude 3-chloro-5-bromo-4-(propylamino)-benzonitrile was obtained (549 mg, 100%).

reactant | 3-chloro-4-(propylamino)benzonitrile | 1.87 mmol, 365 mg | ClC=1C=C(C#N)C=CC1NCCC | C10H11ClN2
reactant | bromine | 1.87 mmol, 300 mg | BrBr | Br2
solvent | MeOH | 10 ml | CO | CH4O
solvent | MeOH | 2 mL | CO | CH4O
product | 3-chloro-5-bromo-4-(propylamino)-benzonitrile | ClC=1C=C(C#N)C=C(C1NCCC)Br | C10H10BrClN2
